US08859574B2
To a solution of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (30 mg, 0.072 mmol) in MeOH (0.7 mL) was added AcOH (35 mg, 0.58 mmol), (1-ethoxycyclopropoxy)trimethylsilane (37 mg, 0.216 mmol) and a small amount of 4 Å molecular sieves. The mixture was stirred at room temperature for 1 h before the addition of Na(CN)BH3 (14 mg, 0.216 mmol). The resulting mixture was then stirred at 60° C. for 14 h and cooled to room temperature. Saturated aqueous NH4Cl (2 mL) was added and the mixture was extracted with EtOAc (3×3 mL). The combined organic layers were concentrated and purified by preparative RP-HPLC to provide 5-chloro-N2-(4-(1-cyclopropylpiperidin-4-yl)-2-fluoro-5-methylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine; 1H NMR (400 MHz, MeOD-d4) δ 7.97 (s, 1H), 7.84 (d, 1H), 7.50 (s, 1H), 6.93 (d, 1H), 6.29 (s, 1H), 5.33 (s, 1H), 2.80 (m, 1H), 2.58 (s, 2H), 2.28 (s, 3H), 2.24 (s, 3H), 1.96 (m, 1H), 1.80-1.85 (m, 2H), 1.65-1.75 (m, 2H), 0.2-0.7 (m, 6H); ESMS m/z 456.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.072 mmol, 30 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | AcOH | 0.58 mmol, 35 mg | CC(=O)O | C2H4O2
reactant | (1-ethoxycyclopropoxy)trimethylsilane | 0.216 mmol, 37 mg | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | NH4Cl | 2 mL | [NH4+].[Cl-]
solvent | MeOH | 0.7 mL | CO | CH4O
product | 5-chloro-N2-(4-(1-cyclopropylpiperidin-4-yl)-2-fluoro-5-methylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCN(CC1)C1CC1)F)NC1=NNC(=C1)C | C23H27ClFN7
